US05151435
Step B: Preparation of 7-methyl-2-propylimidazo [4,5-b]pyridine (cf. Lappin, G. R.; Slezak, F. B. J. Am. Chem. Soc., 1950, 72, 2806-7)
A mixture of butyric acid (6.57 mL, 71.9 mmol), 2,3-diamino-4-picoline (8.05 g, 65.4 mmol), and polyphosphoric acid (50 g) was heated to 100° C. with stirring for 3 hours, and monitored by tlc of NH4OH neutralized aliquots. Basification (NH4OH), extraction (CH2Cl2, 4×50 mL), drying (K2CO3), purification (by filtering through 100 g silica gel, EtOAc elution), and concentration gave 10.0 g (87%) of the title compound as an amorphous tan solid which was judged pure by 1H NMR and tlc: mp 110°-112° C. (without recrystallization).

reactant | butyric acid | 71.9 mmol, 6.57 mL | C(CCC)(=O)O | C4H8O2
reactant | 2,3-diamino-4-picoline | 65.4 mmol, 8.05 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | NH4OH | [NH4+].[OH-]
product | 7-methyl-2-propylimidazo [4,5-b]pyridine | 10.0 g, 87% | CC1=C2C(=NC=C1)N=C(N2)CCC | C10H13N3
